US04822729
2-benzamido-4-chloro-5-[2-(p-aminophenoxy]-myristamido]-phenol
An amount of 670 g (1.10 mol) of 2-benzamido-4-chloro-5-[2-(p-nitrophenoxy]-myristamido]-phenol in the presence of 2370 ml of tetrahydrofuran, 47.8 g of morpholine, and 22 ml of Raney nickel is reduced in an autoclave at an initial hydrogen pressure of 10 MPa and a temperature of 40° C. After 90 min the theoretical amount of hydrogen is found to be taken up. The catalyst is filtered off. The filtrate is concentrated by evaporation to a volume of 1 l and then poured out in 4 l of ethanol. The precipitate is filtered off and dried.

reactant | 2-benzamido-4-chloro-5-[2-(p-nitrophenoxy]-myristamido]-phenol | 1.10 mol, 670 g | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C(=C1)Cl)NC(C(CCCCCCCCCCCC)OC1=CC=C(C=C1)[N+](=O)[O-])=O)O | C33H40ClN3O6
reactant | morpholine | 47.8 g | N1CCOCC1 | C4H9NO
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 22 ml | [Ni] | Ni
solvent | tetrahydrofuran | 2370 ml | O1CCCC1 | C4H8O
product | 2-benzamido-4-chloro-5-[2-(p-aminophenoxy]-myristamido]-phenol | C(C1=CC=CC=C1)(=O)NC1=C(C=C(C(=C1)Cl)NC(C(CCCCCCCCCCCC)OC1=CC=C(C=C1)N)=O)O | C33H42ClN3O4
